US08912208B2
C. (4-{4-[5-(3-Fluoro-phenylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester
To a solution of {4-[4-(5-amino-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester (0.10 g, 0.3 mmol, 1.0 equiv) and 3-fluorophenyl boronic acid (0.086 g, 0.61 mmol, 2.0 equiv) in 5 Ml dichloromethane was added pyridine (0.05 Ml, 0.61 mmol, 2.0 equiv), copper (II) acetate (0.084 g, 0.46 mmol, 1.5 equiv) and 4 Å molecular sieves. The heterogeneous mixture was allowed to stir open to atmosphere for 18 h. Purification by silica gel chromatography (20-45% EtOAc in hexanes) afforded the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.12-1.27 (m, 2 H) 1.47 (br. S., 1 H) 1.53 (dd, J=12.51, 2.65 Hz, 1 H) 1.67 (br. S., 1 H) 1.85 (d, J=12.38 Hz, 4 H) 2.29 (d, J=6.57 Hz, 2 H) 3.34 (s, 2 H) 3.64 (s, 3 H) 6.69 (td, J=8.46, 2.53 Hz, 1 H) 6.89 (dt, J=11.62, 2.15 Hz, 1 H) 6.96 (dd, J=7.83, 1.77 Hz, 1 H) 7.33 (d, J=8.34 Hz, 2H) 7.63 (dd, J=8.59, 2.78 Hz, 1 H) 7.84 (d, J=8.59 Hz, 1 H) 7.95 (d, J=8.34 Hz, 2 H) 8.47 (s, 1 H) 8.71 (s, 1H); (M+H)+ 419.3.

reactant | {4-[4-(5-amino-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 0.3 mmol, 0.10 g, 1.0 equiv | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)N)=O | C20H24N2O2
reactant | 3-fluorophenyl boronic acid | 0.61 mmol, 0.086 g, 2.0 equiv | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | pyridine | 0.61 mmol, 2.0 equiv | N1=CC=CC=C1 | C5H5N
catalyst | copper (II) acetate | 0.46 mmol, 0.084 g, 1.5 equiv | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4-{4-[5-(3-Fluoro-phenylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)NC1=CC(=CC=C1)F)=O | C26H27FN2O2
